US05807864
3-[3-(2,6-Dimethylphenyl)-1-ethylthioureido]propionic acid
A mixture of 3-ethylaminopropionic acid (19.8 g), 2,6-dimethylphenyl-isothiocyanate (16.3 g), triethylamine (20 g) and methylene chloride (200 mL) was heated at reflux for 3 hours. The cooled reaction mixture was extracted with 1N NaOH (150 mL). The aqueous layer was separated and acidified with 2N HCl. The solid formed was collected by filtration. Recrystallization from ethanol afforded the title compound (11 g) as a white solid, m.p. 115°-118° C.

reactant | 3-ethylaminopropionic acid | 19.8 g | C(C)NCCC(=O)O | C5H11NO2
reactant | 2,6-dimethylphenyl-isothiocyanate | 16.3 g | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-[3-(2,6-Dimethylphenyl)-1-ethylthioureido]propionic acid | 11 g | CC1=C(C(=CC=C1)C)NC(N(CC)CCC(=O)O)=S | C14H20N2O2S
